US09260414B2
[(S)-2-Methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester
To a solution of ((S)-1-{(S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (50 g, 0.11 mol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2]bi[[1,3,2]dioxaborolanyl] (57 g, 0.22 mol) and potassium acetate (108 g, 1.1 mol) in dioxane (1000 mL) was added Pd(dppf)Cl2.CH2Cl2 (4.5 g, 5.5 mmol) under nitrogen. The reaction mixture was stirred at 85° C. overnight and then ethyl acetate (100 mL) and water (1000 mL) were added. The organic layer was washed with water (2×1000 mL) and brine (1000 mL), dried over anhydrous Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (1:1 petroleum ether:ethyl acetate) to give the title compound (22.5 g) as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ (ppm) 7.71 (m, 3H), 7.32 (m, 1H), 7.19 (m, 1H), 5.56 (m, 1H), 5.18 (m, 1H), 4.23 (m, 1H), 3.73 (m, 1H), 3.61 (s, 3H), 3.55 (m, 1H), 2.95 (m, 1H), 2.38 (s, 1H), 2.13 (m, 1H), 2.02 (m, 1H), 1.89 (m, 2H), 1.22 (s, 12H), 0.79 (d, 6H).

reactant | ((S)-1-{(S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.11 mol, 50 g | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2]bi[[1,3,2]dioxaborolanyl] | 0.22 mol, 57 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.1 mol, 108 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 5.5 mmol, 4.5 g | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1000 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1000 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | [(S)-2-Methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 22.5 g | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
